US06342492B1
Into a 1-L round-bottomed flask equipped with an addition funnel, a stirring bar and a nitrogen inlet, were added 40.2 g(0.23 mol) of benzenesulfonyl chloride, 150 mL of ether and 175 mL of a saturated aq. NaCl solution. The addition funnel was charged with a solution of 25.4 g (0.12 mol) of N-benzylbis(3-aminopropyl)amine and 175 mL of 1.3 N aq. NaOH. The amine was added dropwise with vigorous stirring over 2 h. The mixture was poured into a separatory funnel and the aqueous portion (bottom layer) removed. The two organic layers were diluted with 100 mL of chloroform and the resulting solution concentrated by rotary evaporation to a pale yellow oil. The residue was dissolved in 150 mL of dichloromethane. A solution of 2 N aq. HCl (60 mL) and 60 mL of saturated aq. NaCl was added and the mixture was stirred vigourously for 1 h. The layers were separated and the organic (lower) layer was washed with a saturated aq. NaCl solution (3×50 mL) and concentrated by rotary evaporation. The residue was recrystallized by bringing an ethanol solution of the residue to a boil and adding ethyl acetate to induce precipitation. The mixture was cooled to room temperature then to −25° C. for 2 weeks. Vacuum filtration of the precipitate gave 55.9 g (90%) of N-benzylbis(3-benzenesulfonamidopropyl)amine hydrochloride as a white solid. An analytical sample was prepared by drying at 65° C. (1 mm) for 13 h, mp 135-136° C. 1H NMR (DMSO-d6) δ11.0 (br, 1 H, BnNH), 7.89 (t, 2 H, J=5.7 Hz, SO2NH), 7.79 (d, 4 H, J=7.2 Hz,SO2ArH2,6), 7.59(m, 8 H. SO2ArH3,4,5, BnArH3,5), 7.41 (m, 3 H, BnArH2,4,6) 4.23 (d, 2 H, J=4.2 Hz, PhCH2N), 2.93 (m, 4 H, ArSO2NCH2CH2), 2.74 (m, 4 H, BnNCH2CH2), 1.88 (m, 4 H, NCH2CH2CH2N), 13C NMR (DMSO-d6) (140.3, 132.6, 131.5, 129.8, 129.6, 129.4, 128.9, 126.6, 56.0, 49.4, 40.1, 23.3. IR (KBr, cm−1) 3242 (br), 3073 (s), 2976 (m), 2855 (m), 2609 (s), 1470 (m), 1446 (s), 1330 (s), 1163 (s), 1092 (s), 740 (s), 689 (s). Anal. calc. for C25H31N3S2O4 HCl; C, 55.80; H, 5.99; N, 7.81; S, 11.92; Cl, 6.59. Found: C, 55.47; H, 6.13; N, 7.63; S, 11.63; Cl, 6.92%.

reactant | benzenesulfonyl chloride | 0.23 mol, 40.2 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaCl | 175 mL | [Na+].[Cl-]
reactant | N-benzylbis(3-aminopropyl)amine | 0.12 mol, 25.4 g | C(C1=CC=CC=C1)N(CCCN)CCCN | C13H23N3
reactant | NaOH | 1.3 N, 175 mL | [OH-].[Na+]
solvent | ether | 150 mL | CCOCC | C4H10O
product | N-benzylbis(3-benzenesulfonamidopropyl)amine hydrochloride | 55.9 g, 90% | Cl.C(C1=CC=CC=C1)N(CCCNS(=O)(=O)C1=CC=CC=C1)CCCNS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C25H31N3O4S2.ClH/c29-33(30,24-14-6-2-7-15-24)26-18-10-20-28(22-23-12-4-1-5-13-23)21-11-19-27-34(31,32)25-16-8-3-9-17-25;/h1-9,12-17,26-27H,10-11,18-22H2;1H
